US04929613
7-[3-(Amino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride.
A suspension of 17.2 g (50 mmol) of 7-[(3-oximino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 3.0 g of Raney-nickel and 300 ml of N,N-dimethylformamide was shaken in a hydrogen atmosphere at 45-50 psi for 24 hours. After removing the catalyst by filtration through Celite and addition of 100 ml of 6.0 M hydrochloric acid (60 mmol), the mixture was evaporated in high vacuo at 50° . The residue was triturated with a mixture of 200 ml of ethanol/ether (1:1) and the solid was removed by filtration, washed with ethanol/ether (1:1) and dried in vacuo to give 13.1 g of the title compound.

reactant | 7-[(3-oximino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 50 mmol, 17.2 g | N(O)=C1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C18H17FN2O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 60 mmol, 6.0 M, 100 ml | Cl | ClH
catalyst | Raney-nickel | 3.0 g | [Ni] | Ni
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 7-[3-(Amino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 13.1 g | Cl.NC1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | InChI=1S/C18H19FN2O3.ClH/c19-15-6-13-16(7-12(15)9-1-2-10(20)5-9)21(11-3-4-11)8-14(17(13)22)18(23)24;/h6-11H,1-5,20H2,(H,23,24);1H
